US07169865B2
1-Diphenylboranylcyclopentadienylzirconium trichloride [Ph2B(cp)ZrCl3] [(C6H5)2B(C5H4)ZrCl3]
24.8 g (106.5 mmol) of zirconium tetrachloride and 150 ml of toluene were placed under argon in a 0.5 l two-neck flask. The white suspension was cooled to −20° C. and a solution of 30.68 g (101.4 mmol) of diphenylboranyltrimethylsilylcyclopentadiene in 150 ml of toluene was added. The brown suspension was stirred at room temperature for 24 hours and filtered through a D3 frit. The filtrate was evaporated to dryness under reduced pressure. The brown residue was stirred a number of times with n-hexane, giving a brown powder. This was dried to constant weight under reduced pressure.

reactant | zirconium tetrachloride | 106.5 mmol, 24.8 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
reactant | diphenylboranyltrimethylsilylcyclopentadiene | 101.4 mmol, 30.68 g | C1(=CC=CC=C1)B(C1=CC=CC=C1)C1=C(CC=C1)[Si](C)(C)C | C20H23BSi
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-Diphenylboranylcyclopentadienylzirconium trichloride | [Cl-].[Cl-].[Cl-].C1(=CC=CC=C1)B(C1(C=CC=C1)[Zr+3])C1=CC=CC=C1 | InChI=1S/C17H14B.3ClH.Zr/c1-3-9-15(10-4-1)18(17-13-7-8-14-17)16-11-5-2-6-12-16;;;;/h1-14H;3*1H;/q;;;;+3/p-3
